US07163953B2
380 mg (15 mmol) of 95% sodium hydride were given to a solution of 3.00 g (13.7 mmol) 4-(2-[1,2,3]triazol-1-yl-ethoxymethyl)-phenol in 70 ml N,N-dimethylformamide and stirred for 30 min at room temperature. Then 3.73 g (13.7 mmol) 2-[2-(4-chloro-2-fluoro-phenyl)-vinyl]-4-chloromethyl-oxazole were added and stirring continued over night. The mixture was quenched with water, stirred for 1 h and the precipitate isolated by filtration. After washing with water, little methanol, ethyl acetate/heptane 2:1 and ether, and drying at 40° C. in vacuo, 3.34 g (54%) 1-[2-(4-{2-[2-(E)-(4-chloro-2-fluoro-phenyl)-vinyl]-oxazol-4-ylmethoxy}-benzyloxy)-ethyl]-1H-[1,2,3]triazole were obtained.

reactant | sodium hydride | 15 mmol, 380 mg | [H-].[Na+]
reactant | 4-(2-[1,2,3]triazol-1-yl-ethoxymethyl)-phenol | 13.7 mmol, 3.00 g | N1(N=NC=C1)CCOCC1=CC=C(C=C1)O | C11H13N3O2
reactant | 2-[2-(4-chloro-2-fluoro-phenyl)-vinyl]-4-chloromethyl-oxazole | 13.7 mmol, 3.73 g | ClC1=CC(=C(C=C1)C=CC=1OC=C(N1)CCl)F | C12H8Cl2FNO
solvent | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | 1-[2-(4-{2-[2-(E)-(4-chloro-2-fluoro-phenyl)-vinyl]-oxazol-4-ylmethoxy}-benzyloxy)-ethyl]-1H-[1,2,3]triazole | 3.34 g, 54% | ClC1=CC(=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(COCCN2N=NC=C2)C=C1)F | C23H20ClFN4O3
